US05516774
N-[4-(pyrrolo[1,2-a]quinoxalin-5(4H)-yl -carbonyl]phenyl]-2-methylbenzamide
To a stirred solution of 1.5 mmol of 2-methylbenzoyl chloride in 10 ml of methylene chloride is added 3 mmol of triethylamine. After stirring for 15 minutes, 1.5 mmol of 4,5-dihydro-5-(4-aminobenzoyl)pyrrolo[1,2-a]quinoxaline is added and the mixture stirred for 5 hours. The reaction mixture is washed with water, 1N HCl, NaHCO3, and brine. The reaction mixture is dried with Na2SO4, filtered and evaporated in vacuo to give a solid which is purified by flash chromatography to give the desired product as a solid, m.p. 206°-207° C.

reactant | 2-methylbenzoyl chloride | 1.5 mmol | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
reactant | triethylamine | 3 mmol | C(C)N(CC)CC | C6H15N
reactant | 4,5-dihydro-5-(4-aminobenzoyl)pyrrolo[1,2-a]quinoxaline | 1.5 mmol | NC1=CC=C(C(=O)N2CC=3N(C4=CC=CC=C24)C=CC3)C=C1 | C18H15N3O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(pyrrolo[1,2-a]quinoxalin-5(4H)-yl -carbonyl]phenyl]-2-methylbenzamide | C1=CC=C2N1C1=CC=CC=C1N(C2)C(=O)C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O | C26H21N3O2
